US08084448B2
B. (S)-3-Formyl-3,4-dihydro-1H-isoquinoline-2-carboxylic Acid Tert-butyl Ester
To a solution of oxalyl chloride (0.798 mL, 9.15 mmol) in CH2Cl2 (11 mL) at −78° C. is added DMSO (1.08 mL, 15.25 mmol) dropwise (evolution of gas observed) and the mixture stirred at −78° C. for 1.5 h. To this is added a solution of (S)-3-hydroxymethyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (0.803 g, 3.05 mmol) in CH2Cl2 (9 mL) and the mixture is stirred at −78° C. for 1.5 h. Triethylamine (3.4 mL, 24.41 mmol) is added and the mixture is stirred for 10 min at −78° C. and then warmed to room temperature for 1.5 h. The mixture is extracted with EtOAc (2×30 mL), washed with 1N HCl (1×35 mL) and extracted again with EtOAc (1×30 mL). The combined organic layers are washed with 1N HCl (2×30 mL) and brine (2×30 mL), dried over Na2SO4 and concentrated to afford the title compound.

reactant | oxalyl chloride | 9.15 mmol, 0.798 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 15.25 mmol, 1.08 mL | CS(=O)C | C2H6OS
reactant | (S)-3-hydroxymethyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 3.05 mmol, 0.803 g | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2C[C@H]1CO | C15H21NO3
reactant | Triethylamine | 24.41 mmol, 3.4 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 11 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 9 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-Formyl-3,4-dihydro-1H-isoquinoline-2-carboxylic Acid Tert-butyl Ester | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2C[C@H]1C=O | C15H19NO3
